US08242260B2
To a solution of 3-bromo-5-methylaniline (500 mg, 2.2 mmol) in DCM (5 mL), isopropylsulfonylchloride (0.3 mL, 2.7 mmol) was added, followed by the addition of pyridine (0.45 mL, 5.6 mmol). The reaction was stirred at room temperature for 25 hours at which time it was quenched with water and extracted with EtOAc. The organic layer was washed with brine, dried (MgSO4), and absorbed onto silica. Purification by flash chromatography (SiO2, 0-30% EtOAc in hexanes) afforded N-(3-bromo-5-methylphenyl)propane-2-sulfonamide (558 mg, 1.9 mmol, 85%) as a peach colored solid: 1H NMR (400 MHz, CDCl3) δ 1.41 (d, J=6.7 Hz, 6H) 2.31 (s, 3H) 3.33 (m, 1H) 6.84 (br s, 1H) 6.97 (s, 1H) 7.10 (s, 1H) 7.21 (s, 1H).

reactant | 3-bromo-5-methylaniline | 2.2 mmol, 500 mg | BrC=1C=C(N)C=C(C1)C | C7H8BrN
reactant | isopropylsulfonylchloride | 2.7 mmol, 0.3 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyridine | 5.6 mmol, 0.45 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-bromo-5-methylphenyl)propane-2-sulfonamide | 1.9 mmol, 558 mg, 85% | BrC=1C=C(C=C(C1)C)NS(=O)(=O)C(C)C | C10H14BrNO2S
